* source DREPT
Q_Q5         VEE N207053 N206611 QBC807-25 
R_R3         N207045 0  1k TC=0,0 
X_POT2         N206819 N206819 N213339 POT PARAMS: SET=0.17 VALUE=500k
Q_Q4         N207131 N207045 N206611 QBC807-25 
R_RL1         N207407 N213339  3.3k TC=0,0 
Q_Q3         N206705 N206555 N219654 QBC807-25 
R_RL3         0 N2074211  1k TC=0,0 
Q_Q1         N206555 N206555 N206397 QBC807-25 
V_V1         VCC 0 10
Q_Q2         N206611 N206555 N206403 QBC807-25 
Q_Q7         VEE N207317 N206819 QBC807-25 
Q_Q8         VCC N206705 N206819 QBC817-25 
R_R5         N206397 VCC  100 TC=0,0 
V_V2         0 VEE 10
R_R1         N206555 0  6.8k TC=0,0 
R_R4         N207045 N206819  1k TC=0,0 
R_RL2         N2074211 N207407  2.7k TC=0,0 
Q_Q6         N207317 N207131 VEE QBC817-25 
X_POT1         N207053 N207053 N206819 POT PARAMS: SET=0.02 VALUE=10k
R_R6         N206403 VCC  100 TC=0,0 
C_C1         0 N207053  100n  TC=0,0 
X_U2         N206705 N206879 1N4148 
X_U3         N206879 N207317 1N4148 
D_D4         0 N216307 SMLS14BET 
R_R2         VCC N219654  100 TC=0,0 
R_R7         VEE N207131  1.5k TC=0,0 
D_D5         N215789 0 SMLS14BET 
R_R9         VCC N215789  1k TC=0,0 
R_R8         VCC N215789  1k TC=0,0 
R_R11         VEE N216307  1k TC=0,0 
R_R10         VEE N216307  1k TC=0,0 
